US07482356B2
Preparation of 2-(2-chlorobenzoyl)-3-(2-methylsulfanyl-pyrimidin-4-yl)-6,7-dihydro-5H-pyrazolo[1,2-a]pyrazol-1-one (23):
To a solution of 2-[(2-chloro-phenyl)-hydroxy-methyl]-3-(2-methylsulfanyl-pyrimidin-4-yl)-6,7-dihydro-5H-pyrazolo[1,2-a]pyrazol-1-one, 22, (0.22 g, 0.56 mmol) in CH2Cl2 (3 mL) is added manganese (IV) oxide (0.30 g, 3.40 mmol). After stirring for 18 hours at room temperature, the mixture is filtered through celite and washed with CH2Cl2. The filtrate is concentrated in vacuo. The crude residue is purified over silica (5% MeOH/chloroform) to afford 165 mg (69% yield) of the desired product. 1H NMR (300 MHz, CDCl3) δ 8.69 (d, J=5.1 Hz, 1H), 7.78 (dd, J=7.2, 1.8 Hz, 1H), 7.81 (d, J=5.1 Hz, 1H), 7.46-7.33 (m, 4H), 4.44 (t, J=7.2 Hz, 2H), 4.03 (t, J=7.2 Hz, 2H), 2.76 (dddd, J=7.2, 7.2, 7.2, 7.2 Hz, 2H), 2.63 (s, 3H); ESI+ MS: m/z (rel intensity) 387.1 (100, M++H).

reactant | 2-[(2-chloro-phenyl)-hydroxy-methyl]-3-(2-methylsulfanyl-pyrimidin-4-yl)-6,7-dihydro-5H-pyrazolo[1,2-a]pyrazol-1-one | ClC1=C(C=CC=C1)C(C1=C(N2N(CCC2)C1=O)C1=NC(=NC=C1)SC)O | C18H17ClN4O2S
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
catalyst | manganese (IV) oxide | 3.40 mmol, 0.30 g | [O-2].[Mn+4].[O-2]
product | 2-(2-chlorobenzoyl)-3-(2-methylsulfanyl-pyrimidin-4-yl)-6,7-dihydro-5H-pyrazolo[1,2-a]pyrazol-1-one | 165 mg, 69% yield | ClC1=C(C(=O)C2=C(N3N(CCC3)C2=O)C2=NC(=NC=C2)SC)C=CC=C1 | C18H15ClN4O2S
